US04147716
N-(2-cyanoethyl)-N-[2-(N-ethylcarbamoyloxy)ethyl]aniline
Into a 500 ml. three-necked round-bottomed flask equipped with thermometer, stirrer, reflux condenser, and dropping funnel are placed 40 g. (0.493 mole) of potassium cyanate and 250 ml. of sulfolane (tetrahydrothiophene-1,1-dioxide). This mixture is heated with stirring to 90° C. by means of an oil bath. Bromoethane (95 g., 0.8 mole) is then added dropwise to the mixture over a 1.5 hour period. The temperature of the reaction mixture drops to 75° C. during the addition of bromoethane. A solution of 50 g. (0.228 mole, 86.5%) N-(2-cyanoethyl)-N-(2-hydroxyethyl) aniline in 50 ml. of sulfolane is added, and heating of the resulting mixture is continued at 90° C. for three hours. The reaction mixture is cooled to room temperature and then poured into 2 liters of cold water. The mixture is agitated for 0.5 hour, and the two resulting layers separated. TLC of the organic layer in 4:1 benzene:acetone shows only a trace of starting material. The infrared spectrum of the product of the above formula shows absorptions at 3370, 2250, 1915, 1680, and 596 cm-1.

reactant | potassium cyanate | 0.493 mole | [O-]C#N.[K+]
reactant | sulfolane | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | Bromoethane | 0.8 mole, 95 g | BrCC | C2H5Br
reactant | N-(2-cyanoethyl)-N-(2-hydroxyethyl) aniline | 0.228 mole | C(#N)CCN(C1=CC=CC=C1)CCO | C11H14N2O
solvent | water | 2 liters | O | H2O
product | N-(2-cyanoethyl)-N-[2-(N-ethylcarbamoyloxy)ethyl]aniline | C(#N)CCN(C1=CC=CC=C1)CCOC(NCC)=O | C14H19N3O2
